US07820654B2
Step (iii). Synthesis of 1-{3-[2-morpholin-4-yl-6-(4-trifluoromethoxy-phenylamino)-pyrimidin-4-yl]-phenyl}-ethanone
To a mixture of compound (6-chloro-2-morpholin-4-yl-pyrimidin-4-yl)-(4-trifluoromethoxy-phenyl)-amine (0.3 g, 0.8 mmol) and 3-acetyl benzene boronic acid (0.13 g, 0.79 mmol) in DMF (10 mL) was added palladium tetrakis triphenyl phosphine (0.027 g, 0.023 mmol) and 2M Na2CO3 soln (0.67 g, 6.32 mmol) at room temperature. The reaction mixture was then heated for 12 hours under nitrogen atmosphere. The reaction mixture was cooled to temperature in the range of 20-40° C., diluted with water, extracted with ethyl acetate (3×10 mL). Combined organic layers were concentrated and the residue was purified by column chromatography using 15% ethylacetate in pet-ether to afford the desired compound (0.18 g, 49%) as a brown solid.

reactant | (6-chloro-2-morpholin-4-yl-pyrimidin-4-yl)-(4-trifluoromethoxy-phenyl)-amine | 0.8 mmol, 0.3 g | ClC1=CC(=NC(=N1)N1CCOCC1)NC1=CC=C(C=C1)OC(F)(F)F | C15H14ClF3N4O2
reactant | 3-acetyl benzene boronic acid | 0.79 mmol, 0.13 g | C(C)(=O)C=1C=C(C=CC1)B(O)O | C8H9BO3
reactant | Na2CO3 | 2M | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1-{3-[2-morpholin-4-yl-6-(4-trifluoromethoxy-phenylamino)-pyrimidin-4-yl]-phenyl}-ethanone | 0.18 g, 49% | N1(CCOCC1)C1=NC(=CC(=N1)C=1C=C(C=CC1)C(C)=O)NC1=CC=C(C=C1)OC(F)(F)F | C23H21F3N4O3
